US09427475B2
Step B: N2-[(benzyloxy)carbonyl]-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-N-(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)-L-lysinamide
In a 40 mL vial, 2-aminoethyl α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranoside (883 mg, 1.612 mmol) was dissolved in DMF (10 mL). To the above solution at 0° C. was added a solution of 2,5-dioxopyrrolidin-1-yl N2-[(benzyloxy)carbonyl]-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysinate (700 mg, 1.008 mmol) in DMF (10 mL) dropwise. After stirring at rt for 18 hr, the mixture was concentrated. The residue was purified by HPLC (waters Delta Pak C4 300 A, 15 um, 50×250 mm column, flow rate 85 ml/min, gradient 8-30% ACN/water in 25 min) to give the title compound. UPLC Method B: m/e=1127.335 [M+1]; Rt=2.83 min.

reactant | 2-aminoethyl α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranoside | 1.612 mmol, 883 mg | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@@H](OCCN)O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O | C20H37NO16
reactant | 2,5-dioxopyrrolidin-1-yl N2-[(benzyloxy)carbonyl]-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysinate | 1.008 mmol, 700 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(CCCCC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)C(=O)ON1C(CCC1=O)=O | C32H46N4O13
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N2-[(benzyloxy)carbonyl]-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-N-(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)-L-lysinamide | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(CCCCC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)C(=O)NCCO[C@@H]1[C@@H](O)[C@@H](O[C@@H]2[C@@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O)[C@H](O1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C48H78N4O26
